US08809371B2
Diisopropylethylamine (7.5 ml) and cis-cyclohexane-1,2-diamine (5.0 g) were added to an N-methylpyrrolidone (50 ml) solution containing methyl 2-benzylamino-6-chloronicotinate (6.0 g), followed by stirring at 120° C. for 11 hours. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added. The organic layer was collected, washed with saturated saline, and dried over anhydrous sodium sulfate, and then the solvent was distilled away under reduced pressure. Di-tert-butyl dicarbonate (4.7 g) was added to a tetrahydrofuran (50 ml) solution containing the obtained residue and the resulting mixture was left at rest at room temperature for 3 days. The solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography (silica gel:silica gel 60 (spherical shape) (Kanto Chemical Co., Inc.); hexane:ethyl acetate=3:1), and a light yellow solid of methyl 2-benzylamino-6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)nicotinate (7.7 g) was thus obtained.

reactant | Diisopropylethylamine | 7.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cis-cyclohexane-1,2-diamine | 5.0 g | [C@@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
reactant | methyl 2-benzylamino-6-chloronicotinate | 6.0 g | C(C1=CC=CC=C1)NC1=C(C(=O)OC)C=CC(=N1)Cl | C14H13ClN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 2-benzylamino-6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)nicotinate | 7.7 g | C(C1=CC=CC=C1)NC1=C(C(=O)OC)C=CC(=N1)N[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C | C25H34N4O4
